data/oMe_Silver.jsonl
{"reaction_id": "NR-133_1-c1ccc(C#N)cc1_2-c1ccc(Oc2ccccc2)cc1","name": "Lobry-de Bruyn-van Ekenstein Rearrangement","level": "medium","reactants_smiles": ["C(O)(c1ccc(Oc2ccccc2)cc1)C(=O)(c1ccc(C#N)cc1)"],"products_smiles": ["C(=O)(c1ccc(Oc2ccccc2)cc1)C(O)(c1ccc(C#N)cc1)"],"conditions": "Base or Acid","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(O)(c1ccc(Oc2ccccc2)cc1)=C([O-])(c1ccc(C#N)cc1)","rationale": "Base abstracts the α-hydroxy proton, generating an enolate stabilized by resonance with the adjacent carbonyl, facilitating rearrangement."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(O)(c1ccc(Oc2ccccc2)cc1)=C(O)(c1ccc(C#N)cc1)","rationale": "Protonation of the enolate oxygen yields the neutral enediol, stabilized by conjugation between hydroxyl and alkene."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C([O-])(c1ccc(Oc2ccccc2)cc1)=C(O)(c1ccc(C#N)cc1)","rationale": "Deprotonation at the other hydroxyl group forms an enolate at the alternate carbon, enabling tautomerization toward the product carbonyl position."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(c1ccc(Oc2ccccc2)cc1)C(O)(c1ccc(C#N)cc1)","rationale": "Protonation of the enolate oxygen regenerates the carbonyl, producing the thermodynamically favored α-hydroxy carbonyl product."}],"description": "Under basic or acidic conditions, the Lobry-de Bruyn-van Ekenstein rearrangement interconverts an α-hydroxy ketone and an α-hydroxy aldehyde via enediol intermediates. Sequential proton transfers enable tautomerization, driven by stabilization of the enolate/enediol forms and the thermodynamic preference for the carbonyl arrangement in the product."}
{"reaction_id": "NR-201_1-C#CC_2-CC","level": "medium","name": "Nazarov Cyclization Reaction","reactants_smiles": ["C(C(C#CC))=CC(=O)C=C(C(CC))","CS(=O)(=O)O"],"products_smiles": ["C(CC)C1=CC(=O)CC1(C#CC)"],"conditions": "H+ OSO2Me","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(C#CC))=CC(=[OH+])C=CC(CC)","step_weight": 0,"rationale": "Protonation of the carbonyl oxygen increases electrophilicity and stabilizes the developing positive charge via resonance, facilitating oxyallyl cation formation under strong acid."},{"step": 2,"type": "pericyclic","subtype": "electrocyclization","intermediate_smiles": "C1(=CC(C([CH+]1)C(C#CC))C(CC))O","step_weight": 0,"rationale": "The oxyallyl cation undergoes a conrotatory 4π-electrocyclization, favored by orbital symmetry and leading to a cyclopentenyl cation stabilized by adjacent substituents."},{"step": 3,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C1(=CC(C(=C1)C(CC))C(C#CC))O","step_weight": 0,"rationale": "Deprotonation relieves positive charge on the cyclopentenyl cation, driven by formation of a more conjugated alkene system."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CC)C1=CC(=O)CC1(C(C#CC))","step_weight": 0,"rationale": "Acid-catalyzed tautomerization converts the enol to the more stable conjugated ketone, favored by carbonyl bond strength and extended π-conjugation."}],"description": "Under strong acid conditions, the divinyl ketone is protonated to activate the carbonyl toward cation formation. This enables oxyallyl cation generation, which undergoes a Nazarov 4π-electrocyclization to form a cyclopentenyl cation. Subsequent deprotonation and tautomerization yield the thermodynamically stable cyclopentenone product."}
